US05538988
A mixture of 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-4-carbaldehyde (0.25 g, 1.0 mmol), hydroxylamine hydrochloride (0.09 g, 1.3 mmol) and sodium hydroxide (0.064 g, 1.6 mmol) in 2 mL of ethanol and 2 mL of water was stirred at 60° C. for 1 hour. The mixture was cooled giving a crystalline material. The material was isolated by filtration and dried. The filtrate was stirred with ethyl acetate giving more crystalline material. The material was isolated by filtration and dried. Combining the crystalline material gave 1-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-5-carbaldehyde oxime (0.186 g, 0.68 mmol).

reactant | 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-4-carbaldehyde | 1.0 mmol, 0.25 g | C1C(CCC2=CC=CC=C12)N1C(NC=C1C=O)=S | C14H14N2OS
reactant | hydroxylamine hydrochloride | 1.3 mmol, 0.09 g | Cl.NO
reactant | sodium hydroxide | 1.6 mmol, 0.064 g | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 1-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-5-carbaldehyde oxime | 0.68 mmol, 0.186 g | C1C(CCC2=CC=CC=C12)N1C(NC=C1C=NO)=S | C14H15N3OS
